US07691877B2
(2,6-Dibromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester
Potassium carbonate (7.95 g) was added to a stirred solution of (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester (10.62 g) in acetone (100 ml). 5-(chloromethyl)-2-methylpyridine (4.89 g) was then added, followed by sodium iodide (5.18 g). The mixture was left to stir under nitrogen for 18 hours. The reaction mixture was filtered, concentrated in vacuo, and then partitioned between ethyl acetate (100 ml) and water (100 ml). The organics were dried (MgSO4) and evaporated to a dark purple gum, which was columned on Isco Companion on a silica column (330 g, Redisep), eluting with EtOAc:heptane, increasing the gradient linearly from 40:60 to 80:20 over 6 column volumes. This provided the title compound (8.5 g) as a green gum which solidified to a pale green solid on standing.

reactant | Potassium carbonate | 7.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2,6-dibromo-3-nitro-pyridin-4-yl)-carbamic acid ethyl ester | 10.62 g | C(C)OC(NC1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C8H7Br2N3O4
reactant | 5-(chloromethyl)-2-methylpyridine | 4.89 g | ClCC=1C=CC(=NC1)C | C7H8ClN
reactant | sodium iodide | 5.18 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (2,6-Dibromo-3-nitro-pyridin-4-yl)-(6-methyl-pyridin-3-ylmethyl)-carbamic acid ethyl ester | 8.5 g | C(C)OC(N(CC=1C=NC(=CC1)C)C1=C(C(=NC(=C1)Br)Br)[N+](=O)[O-])=O | C15H14Br2N4O4
